US05688803
8,10-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one
2.05 g (0.0072 mol) of (RS)-7,9-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one were dissolved in 20 ml of dimethyl sulphoxide while gassing with argon. 0.36 g (0.0072 mol) of hydrazine hydrate was added thereto and the mixture was stirred at room temperature for 89 hrs. The suspension obtained was treated with ethyl acetate, suction filtered and rinsed with ethyl acetate. Yield: 0.62 g (31%) of 8,10-dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one as beige crystals; m.p. >350° C.

reactant | (RS)-7,9-dichloro-1,4-dihydroxy-1,3-dihydro-furo[3,4-c]quinolin-3-one | 0.0072 mol, 2.05 g | ClC=1C=C(C=2C3=C(C(=NC2C1)O)C(OC3O)=O)Cl | C11H5Cl2NO4
reactant | hydrazine hydrate | 0.0072 mol, 0.36 g | O.NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
product | 8,10-Dichloro-5-hydroxy-3,4-dihydro-pyridazino[4,5-c]quinolin-4-one | ClC=1C=C(C=2C3=C(C(=NC2C1)O)C(NN=C3)=O)Cl | C11H5Cl2N3O2
